### PR TITLE
[Merged by Bors] - feat: ring with discrete PrimeSpectrum

### PR DESCRIPTION
**Pull request by alreadydone**
Prove two characterizations of commutative semirings R whose prime spectra have discrete topology:

+ R has finitely many prime ideals, and every prime ideal is maximal;

+ R has finitely many maximal ideals, the intersection of which (= Jacobson radical) is contained in (and therefore equal to) the nilradical.

From the first characterization it is easy to show the spectrum of an Artinian ring has discrete topology, but Artinian doesn't currently import PrimeSpectrum.

Also show that if R is a commutative ring and Spec R has discrete topology, then the canonical RingHom from R to the product of localizations at maximal ideals (which is always injective) is an isomorphism. This is not a characterization, because it is satisfied by every local ring. (But it's a characterization if we replace "maximal" by "prime".)

For this purpose we prove that, if a basic open D(f) in Spec R is a singleton {p}, then localization away from f is the same as localization at p. A key fact used is that if an ideal in a commutative semiring is disjoint from a submonoid, then there exists a maximal such ideal containing the ideal, and any maximal such ideal is prime.

Also upgrade `exists_idempotent_basicOpen_eq_of_isClopen` to `existsUnique`.

---

Add Stacks tags to work done by @erdOne in #14372 and #18394.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean [hunk 1]
```diff
@@ -211,6 +211,31 @@ instance compactSpace : CompactSpace (PrimeSpectrum R) := by
...
+    Finite (PrimeSpectrum R) ∧ ∀ I : Ideal R, I.IsPrime → I.IsMaximal :=
+  ⟨fun _ ↦ ⟨finite_of_compact_of_discrete, fun I hI ↦ (isClosed_singleton_iff_isMaximal ⟨I, hI⟩).mp
+    <| discreteTopology_iff_forall_isClosed.mp ‹_› _⟩, fun ⟨_, h⟩ ↦ .of_finite_singleton_isClosed
+    fun p ↦ (isClosed_singleton_iff_isMaximal p).mpr <| h _ p.2⟩
+
+/-- The prime spectrum of a semiring has discrete Zariski topology iff there are only
+finitely many maximal ideals and their intersection is contained in the nilradical. -/
+theorem discreteTopology_iff_finite_isMaximal_and_sInf_le_nilradical :
+    letI s := {I : Ideal R | I.IsMaximal}
+    DiscreteTopology (PrimeSpectrum R) ↔ Finite s ∧ sInf s ≤ nilradical R :=
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:226]: Should this be in terms of jacobson radical?

Comment (alreadydone) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:226]: This holds for (comm.) semirings while `Ideal.jacobson` is only defined for rings at the moment. Also it's convenient to use `sInf s` since we already have `s` around.

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean [hunk 2]
```diff
@@ -890,24 +955,71 @@ lemma PrimeSpectrum.basicOpen_eq_zeroLocus_of_isIdempotentElem
...
+        have ⟨e, he, h⟩ := exists_idempotent_basicOpen_eq_of_isClopen s.2
+        ⟨⟨e, he⟩, Subtype.ext h.symm⟩⟩
+
+lemma PrimeSpectrum.basicOpen_isIdempotentElemEquivIsClopen_symm (s) :
+    basicOpen (isIdempotentElemEquivIsClopen (R := R).symm s).1 = s.1 :=
+  congr_arg (·.1) (isIdempotentElemEquivIsClopen.apply_symm_apply s)
+
+lemma IsLocalization.away_quotient_of_isIdempotentElem {e : R} (he : IsIdempotentElem e) :
+    IsLocalization.Away e (R ⧸ Ideal.span {1 - e}) :=
+  away_of_isIdempotentElem he Ideal.mk_ker Quotient.mk_surjective
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:995]: I don't think this should be here.

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean [hunk 3]
```diff
@@ -890,24 +955,71 @@ lemma PrimeSpectrum.basicOpen_eq_zeroLocus_of_isIdempotentElem
...
+
+open PrimeSpectrum in
+/-- If the prime spectrum of a commutative ring R has discrete Zariski topology, then R is
+canonically isomorphic to the product of its localizations at the (finitely many) maximal ideals. -/
+@[stacks 00JA
+"See also `PrimeSpectrum.discreteTopology_iff_finite_isMaximal_and_sInf_le_nilradical`."]
+def RingHom.toLocalizationIsMaximalEquiv [DiscreteTopology (PrimeSpectrum R)] : R ≃+*
+    ∀ I : {I : Ideal R | I.IsMaximal}, haveI : I.1.IsMaximal := I.2; Localization.AtPrime I.1 :=
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:1003]:
```suggestion
    Π I : {I : Ideal R | I.IsMaximal}, haveI : I.1.IsMaximal := I.2; Localization.AtPrime I.1 :=
```

File: Mathlib/RingTheory/PrimeSpectrum.lean [hunk 4]
```diff
@@ -83,6 +83,13 @@ instance [Subsingleton R] : IsEmpty (PrimeSpectrum R) :=
 
 variable (R S)
 
+/-- The prime spectrum is in bijection with the set of prime ideals. -/
+def equivSetOfIsPrime : PrimeSpectrum R ≃ {I : Ideal R | I.IsPrime} where
```
Comment (erdOne) [inline Mathlib/RingTheory/PrimeSpectrum.lean:87]:
```suggestion
/-- The prime spectrum is in bijection with the set of prime ideals. -/
@[simps]
def equivSetOfIsPrime : PrimeSpectrum R ≃ {I : Ideal R // I.IsPrime} where
```

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean]: mathport translated Π to ∀, but it can still be used if it reduces confusion, I guess ...

File: Mathlib/RingTheory/PrimeSpectrum.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PrimeSpectrum.lean]: I usually prefer to use coercion from Set; they're defeq but not sure syntactically. Anyway it doesn't matter a lot.

Comment (alreadydone) [reply Mathlib/RingTheory/PrimeSpectrum.lean]: Looks like this broke the build, because I'm using the set of maximal ideals is contained in the set of primes; let me change it back.

File: Mathlib/RingTheory/PrimeSpectrum.lean [hunk 5]
```diff
@@ -83,6 +83,14 @@ instance [Subsingleton R] : IsEmpty (PrimeSpectrum R) :=
 
 variable (R S)
 
+/-- The prime spectrum is in bijection with the set of prime ideals. -/
+@[simps]
+def equivSetOfIsPrime : PrimeSpectrum R ≃ {I : Ideal R // I.IsPrime} where
```
Comment (alreadydone) [inline Mathlib/RingTheory/PrimeSpectrum.lean:88]:
```suggestion
def equivSetOfIsPrime : PrimeSpectrum R ≃ {I : Ideal R | I.IsPrime} where
```

**Review by erdOne — COMMENTED** [review]
I forgot to submit the review. I see that you've already fixed some?

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean [hunk 6]
```diff
@@ -951,24 +1016,67 @@ lemma PrimeSpectrum.basicOpen_eq_zeroLocus_of_isIdempotentElem
...
+with idempotent elements in the ring. -/
+@[stacks 00EE]
+def PrimeSpectrum.isIdempotentElemEquivIsClopen :
+    {e : R | IsIdempotentElem e} ≃ {s : Set (PrimeSpectrum R) | IsClopen s} :=
+  .ofBijective (fun e ↦ ⟨basicOpen e.1, isClopen_iff.mpr ⟨_, e.2, rfl⟩⟩)
+    ⟨fun x y eq ↦ Subtype.ext (basicOpen_injOn_isIdempotentElem x.2 y.2 <|
+      SetLike.ext' (congr_arg (·.1) eq)), fun s ↦
+        have ⟨e, he, h⟩ := exists_idempotent_basicOpen_eq_of_isClopen s.2
+        ⟨⟨e, he⟩, Subtype.ext h.symm⟩⟩
+
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:1049]: Is
```
adding projection PrimeSpectrum.isIdempotentElemEquivIsClopen_apply_coe:
      ∀ {R : Type u} [inst : CommRing R] (e : ↑{e | IsIdempotentElem e}),
        ↑(PrimeSpectrum.isIdempotentElemEquivIsClopen e) = (PrimeSpectrum.zeroLocus {↑e})ᶜ 
```
what you want? (produced by @[simps!])

[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:1049]: Yes but it should be `= basicOpen` and `coe` should be a prefix

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean [hunk 7]
```diff
@@ -212,6 +212,31 @@ instance compactSpace : CompactSpace (PrimeSpectrum R) := by
   simp_rw [hI, ← zeroLocus_iSup, zeroLocus_empty_iff_eq_top, ← top_le_iff] at S_empty ⊢
   exact Ideal.isCompactElement_top.exists_finset_of_le_iSup _ _ S_empty
 
+/-- The prime spectrum of a semiring has discrete Zariski topology iff it is finite and
+all primes are maximal. -/
+theorem discreteTopology_iff_finite_and_isPrime_imp_isMaximal : DiscreteTopology (PrimeSpectrum R) ↔
+    Finite (PrimeSpectrum R) ∧ ∀ I : Ideal R, I.IsPrime → I.IsMaximal :=
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:218]: I really think we should have a `ZeroKrullDimRing` typeclass (not in this PR though).

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer merge

**Comment by alreadydone** [comment]
I discovered [TopologicalSpace.Clopens](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Sets/Closeds.html#TopologicalSpace.Clopens) so I switched to use it in [this branch](https://github.com/leanprover-community/mathlib4/compare/DiscreteTopology_PrimeSpectrum...DiscreteTopology_PrimeSpectrum++?expand=1), and added more lemmas around `isIdempotentElemEquivClopens`.
I can merge them now or include them in a subsequent PR, which will show `toLocalizationIsPrime_injective` is a characterization of comm. rings with discrete spectra.

**Comment by joelriou** [comment]
> I discovered [TopologicalSpace.Clopens](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Sets/Closeds.html#TopologicalSpace.Clopens) so I switched to use it in [this branch](https://github.com/leanprover-community/mathlib4/compare/DiscreteTopology_PrimeSpectrum...DiscreteTopology_PrimeSpectrum++?expand=1), and added more lemmas around `isIdempotentElemEquivClopens`. I can merge them now or include them in a subsequent PR, which will show `toLocalizationIsPrime_surjective` is a characterization of comm. rings with discrete spectra.

Yes, I think it is better to use `TopologicalSpace.Clopens` when it makes sense.

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 8]
```diff
@@ -91,6 +91,12 @@ lemma IsNilpotent.not_isUnit [Ring R] [Nontrivial R] {x : R} (hx : IsNilpotent x
     ¬ IsUnit x :=
   mt IsUnit.not_isNilpotent (by simpa only [not_not] using hx)
 
+lemma IsIdempotentElem.eq_zero_of_isNilpotent [MonoidWithZero R] {e : R}
```
Comment (jcommelin) [inline Mathlib/RingTheory/Nilpotent/Basic.lean:94]: Could you please add an alias `IsNilpotent.eq_zero_of_isIdempotentElem`?

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by alreadydone** [comment]
Thanks!
bors r+

I think I have a different proof of the main result (isomorphism with product of localizations) that works for semirings, which of course can't use subtraction (as in R/(1-e)R) and the CRT and must make use some form  of the fact that the structure sheaf still works over (comm.) semirings. This will make most lemmas in this PR unnecessary to prove the main result, but I think they're good by themselves.

The result I'll need is essentially some form of [AlgebraicGeometry.StructureSheaf.toBasicOpen_surjective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/StructureSheaf.html#AlgebraicGeometry.StructureSheaf.toBasicOpen_surjective) and the preceding lemma, but I don't need to cover a basic open, only the whole spectrum. I have no reason to doubt the proof works over semirings, but the whole file assumes CommRing. Therefore (also to not import this advanced file) I won't directly use these two theorems but will prove a version tailored to my use case, which is fortunately not too complicated.

Side comments: I think the basic opens of idempotents in some (comm.) semirings may not be closed, but I don't know about an example. And it looks like a fun undergraduate project to [compute $\mathrm{Spec}(\mathbb{N})$](https://math.stackexchange.com/a/4224486/12932) in Lean.

**Comment by alreadydone** [comment]
Generalization to semirings at #19496

**Comment by alreadydone** [comment]
> I think the basic opens of idempotents in some (comm.) semirings may not be closed, but I don't know about an example.

I [found a (class of) examples](https://math.stackexchange.com/a/5004592/12932) when I was about to ask on StackExchange; instead I answered a question open for 7 years, which ask for an idempotent without an orthogonal complement. But [this lemma](https://github.com/leanprover-community/mathlib4/pull/18891/files#diff-60d2f63e563433f6a23c60b9620ae1b1551f8409592cff3326ac1fc5b87e60f9R718-R719) basically shows that clopens correspond to orthogonal pairs of idempotents.

**Comment by alreadydone** [comment]
> a subsequent PR, which will show `toLocalizationIsPrime_surjective` is a characterization of comm. rings with discrete spectra.

This is now #19714

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean [hunk 9]
```diff
@@ -951,24 +1018,123 @@ lemma PrimeSpectrum.basicOpen_eq_zeroLocus_of_isIdempotentElem
...
+    h.trans (basicOpen_eq_zeroLocus_of_isIdempotentElem e he)⟩,
+    fun ⟨e, he, h⟩ ↦ ⟨1 - e, he.one_sub, h.trans (zeroLocus_eq_basicOpen_of_isIdempotentElem e he)⟩⟩
+
+open TopologicalSpace (Clopens Opens)
+
+/-- Clopen subsets in the prime spectrum of a commutative ring are in 1-1 correspondence
+with idempotent elements in the ring. -/
+@[stacks 00EE]
+def isIdempotentElemEquivClopens :
+    {e : R | IsIdempotentElem e} ≃ Clopens (PrimeSpectrum R) :=
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:1047]: #20533 generalizes this to semirings, with the LHS replaced by pairs `(e,f)` such that `e + f = 1` and `e * f = 0`.

**Comment by alreadydone** [comment]
> And it looks like a fun undergraduate project to [compute](https://math.stackexchange.com/a/4224486/12932) Spec ( N ) in Lean.

The prime spectrum of ℕ is computed in #27065
